US05932601
In substantially the same manner as in Reference Example 24, ethyl 3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]cinnamate was subjected to reduction reaction with diisobutylaluminum hydride to yield (E)-3-[3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propen-1-ol.

reactant | ethyl 3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]cinnamate | COC=1C=C(C=CC(=O)OCC)C=CC1OC(C)C=1N=C(OC1C)C1=CC=CC=C1 | C24H25NO5
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)-3-[3-methoxy-4-[1-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propen-1-ol | COC=1C=C(C=CC1OC(C)C=1N=C(OC1C)C1=CC=CC=C1)/C=C/CO | C22H23NO4
